US08466282B2
2-tert-butyl-6-oxo-1,6-dihydropyrimidine-5-carboxylic acid
Ethyl 2-tert-butyl-6-oxo-1,6-dihydropyrimidine-5-carboxylate (43.9 g) was dissolved in ethanol (200 ml), 2M aqueous sodium hydroxide solution (330 ml) was added and the mixture was stirred at room temperature for 40 hr. The reaction mixture was concentrated under reduced pressure, and aqueous layer of the mixture was adjusted to pH 8 with 6M hydrochloric acid. The mixture was concentrated under reduced pressure and azeotroped with 2-propanol. The residue was suspended in acetone, and insoluble powder was collected by filtration. The obtained powder was suspended in 1M hydrochloric acid and the mixture was adjusted to pH 3, and concentrated under reduced pressure. The residue was azeotroped with 2-propanol, and the insoluble material was suspended in acetone and filtered off. The filtrate was concentrated under reduced pressure to give the object product (32.8 g) as a powder.

reactant | Ethyl 2-tert-butyl-6-oxo-1,6-dihydropyrimidine-5-carboxylate | 43.9 g | C(C)(C)(C)C=1NC(C(=CN1)C(=O)OCC)=O | C11H16N2O3
reactant | sodium hydroxide | 2M, 330 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-tert-butyl-6-oxo-1,6-dihydropyrimidine-5-carboxylic acid | 32.8 g | C(C)(C)(C)C=1NC(C(=CN1)C(=O)O)=O | C9H12N2O3
